US08026237B2
To a concentrated solution of ammonium hydroxide (28%, 2.5 mL, 20 mmol) was added cautiously 2-methoxy-4-nitrobenzenesulfonyl chloride (0.25 g, 1.0 mmol). After stirring 24h the reaction mixture was added to satd NH4Cl (50 mL) and extracted with DCM (2×50 mL). The combined extracts were washed with brine, dried (anhyd Na2SO4) and concentrated under reduced pressure. The crude residue was chromatographed (silica, MeOH/DCM, 0:100 to 10:90) to yield 2-methoxy-4-nitrobenzenesulfonamide (0.16 g, 68%) as a pale brown solid. 1H-NMR (DMSO-d6) δ 7.99 (1H, d), 7.90-7.95 (2H, m), 7.47 (2H, br s), 4.04 (3H, s).

reactant | ammonium hydroxide | 20 mmol, 2.5 mL | [OH-].[NH4+]
reactant | 2-methoxy-4-nitrobenzenesulfonyl chloride | 1.0 mmol, 0.25 g | COC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)Cl | C7H6ClNO5S
solvent | NH4Cl | 50 mL | [NH4+].[Cl-]
product | 2-methoxy-4-nitrobenzenesulfonamide | 0.16 g, 68% | COC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)N | C7H8N2O5S
